US07087601B2
Pyrrolidine (226 μL, 2.83 mmol) was added to a stirring solution of 2-[4-(bromomethyl)-3-methoxyphenyl]-1,3-benzoxazole (300 mg, 0.94 mmol) and triethylamine (390 μL, 2.8 mmol) in CH2Cl2 (5 mL). The mixture was stirred at rt overnight. Crude mixture was adsorbed onto silica gel and purified by automated flash chromatography using an EtOAc/hexanes gradient to afford the desired 2-[3-methoxy-4-(pyrrolidin-1-ylmethyl)phenyl]-1,3-benzoxazole as a colorless solid: 1H NMR (CDCl3, 300 MHz) δ 7.82–7.80 (m, 1H), 7.77–7.74 (m, 1H), 7.71 (s, 1H), 7.56–7.50 (m, 2H), 7.35–7.30 (m, 2H), 3.94 (s, 3H), 3.71 (s, 2H), 2.59 (s, 4H), 1.81–1.78 (m, 4H). MS (ESI) 309 (M+H)+.

reactant | Pyrrolidine | 2.83 mmol, 226 μL | N1CCCC1 | C4H9N
reactant | 2-[4-(bromomethyl)-3-methoxyphenyl]-1,3-benzoxazole | 0.94 mmol, 300 mg | BrCC1=C(C=C(C=C1)C=1OC2=C(N1)C=CC=C2)OC | C15H12BrNO2
reactant | triethylamine | 2.8 mmol, 390 μL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-[3-methoxy-4-(pyrrolidin-1-ylmethyl)phenyl]-1,3-benzoxazole | COC=1C=C(C=CC1CN1CCCC1)C=1OC2=C(N1)C=CC=C2 | C19H20N2O2
